US07858632B2
To a mixture of 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.32g, 1.17 mmol), prepared according to Example 2, and methanesulfonic anhydride (0.81 g, 4.67 mmol) was added trifluoromethanesulfonic acid (0.45 g, 3.00 mmol), and the mixture was heated at 80° C. for 16 hrs. The reaction mixture was poured into ice water, basified with saturated NaHCO3 solution and extracted into dichloromethane, which was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography on silica gel (3%CH3OH in CH2Cl2 with 0.1%NH4OH) gave 5-(2-isopropyl-5-methanesulfonyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine as a white solid (0.248 g, 90%; 0.107 g), MS (M+H): 353.

reactant | 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.17 mmol, 0.32g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=CC(=C1)OC | C14H18N4O2
reactant | methanesulfonic anhydride | 4.67 mmol, 0.81 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | trifluoromethanesulfonic acid | 3.00 mmol, 0.45 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(2-isopropyl-5-methanesulfonyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)S(=O)(=O)C | C15H20N4O4S
